US08067408B2
3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic Acid
A solution of methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate (460 mg, 1 mmol) in THF (30 mL) was treated with a solution of lithium hydroxide (237 mg, 10 mmol) in water (10 mL) and stirred at ambient temperature for 16 h. The residue was dissolve in minimum amount of water and the pH was adjusted to 4 by the addition of aqueous hydrochloric acid (2M). The resulting solution was concentrated to dryness to afford 446 mg of the title compound. LC-MS m/z 452 (M+H)+, 0.77 min (ret time).

reactant | methyl 3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoate | 1 mmol, 460 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)OC)C=CC2)CC | C25H31N5O4
reactant | lithium hydroxide | 10 mmol, 237 mg | [OH-].[Li+]
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 10 mL | O | H2O
product | 3-[({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)carbonyl]benzoic Acid | 446 mg | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C(=O)O)C=CC2)CC | C24H29N5O4
